US05356916
There was suspended, in 15 ml of dry pyridine, 1.302 g of 4(3-(1H-imidazol-1-yl)propoxy]benzamidoxime and 2.10 g of trifluoroacetic anhydride was dropwise added to the suspension with ice-cooling. After 30 minutes, the temperature of the reaction mixture was returned to room temperature, the mixture was stirred at this temperature for 2 hours and further heated under reflux for 18 hours. After concentration of the reaction mixture, ice water was added to the resulting residue and the mixture was basified by the addition of a 2N sodium hydroxide solution. The basic solution was extracted with chloroform, the resulting extract was washed with water and dried. After concentrating the extract, the resulting residue was purified by silica gel column chromatography (silica gel 35 g; eluent: ethanol in chloroform having a concentration gradient of 0 to 3%). The resulting product was recrystallized from benzene/n-hexane to give 1.317 g of 3-[4-[3-(1H-imidazol-1-yl)propoxy ) phenyl]-5-trifluoromethyl-1,2,4-oxadiazole.

reactant | 4(3-(1H-imidazol-1-yl)propoxy]benzamidoxime | 1.302 g | N1(C=NC=C1)CCCOC1=CC=C(C(N)=NO)C=C1 | C13H16N4O2
reactant | trifluoroacetic anhydride | 2.10 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 3-[4-[3-(1H-imidazol-1-yl)propoxy ) phenyl]-5-trifluoromethyl-1,2,4-oxadiazole | 1.317 g, Yield: 77.9% | N1(C=NC=C1)CCCOC1=CC=C(C=C1)C1=NOC(=N1)C(F)(F)F | C15H13F3N4O2
